US07691882B2
5-Bromo-2-(4-fluoro-benzyloxy)-pyridine
To an N,N-dimethylformamide (30.0 mL) solution of 4-fluorobenzyl alcohol (2.60 g, 20.6 mmol) was added sodium hydride (0.88 g, 22.2 mmol, 60% in oil) under nitrogen atmosphere at 0° C., which was stirred for 10 minutes at room temperature. Next, 2,5-dibromopyridine (3.50 g, 14.8 mmol) was added at 0° C., and stirred for 19 hours at room temperature. Water was added to the reaction solution at room temperature, which was then extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, and the solvent was evaporated under a reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:heptane=1:5) to obtain the title compound (3.75 g, 89.8%).

reactant | N,N-dimethylformamide | 30.0 mL | CN(C=O)C | C3H7NO
reactant | 4-fluorobenzyl alcohol | 20.6 mmol, 2.60 g | FC1=CC=C(CO)C=C1 | C7H7FO
reactant | sodium hydride | 22.2 mmol, 0.88 g | [H-].[Na+]
reactant | 2,5-dibromopyridine | 14.8 mmol, 3.50 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
solvent | Water | O | H2O
product | 5-Bromo-2-(4-fluoro-benzyloxy)-pyridine | 3.75 g, 89.8% | BrC=1C=CC(=NC1)OCC1=CC=C(C=C1)F | C12H9BrFNO
